US05366957
Cyclopropyl methyl ketone (0.84 g) was added to a suspension of sodium hydride (80%, 0.3 g) in dioxane. The mixture was stirred for 20 minutes and ethyl 4(methylsulphenyl)benzoate (1.0 g) was added. The mixture was stirred and heated at 45° C. for 1.5 hours and at 60° C. for 2 hours. It was left to stand at room temperature overnight. Hydrochloric acid (2M) was added and the mixture was extracted with ethyl acetate, washed with water, dried (MgSO4) and filtered. The filtrate was evaporated to dryness and the residue was purified by chromatography eluted with a mixture of ethyl acetate and hexane to give 3-cyclopropyl-1-[4-(methylsulphenyl)-phenyl]-propan-1,3-dione (0.59 g) as an orange solid, NMR (CDCl3) 1.0(m,2H), 1.2(m,2H), 1.8(m, 1H), 2.5(s,3H), 6.25(s, 1H), 7.25(d,2H), 7.8(d,2H), 16.35(bs, 1H).

reactant | Cyclopropyl methyl ketone | 0.84 g | CC(=O)C1CC1 | C5H8O
reactant | sodium hydride | 0.3 g | [H-].[Na+]
reactant | ethyl 4(methylsulphenyl)benzoate | 1.0 g | CSC1=CC=C(C(=O)OCC)C=C1 | C10H12O2S
reactant | Hydrochloric acid | 2M | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-cyclopropyl-1-[4-(methylsulphenyl)-phenyl]-propan-1,3-dione | 0.59 g | C1(CC1)C(CC(=O)C1=CC=C(C=C1)SC)=O | C13H14O2S
